US07622486B2
Synthesis of [6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-2′-yl]-(4-trifluoromethoxyphenyl)-amine (B56)
To a solution of (6′-chloro-3,4,5,6-tetrahydro-2H[1,4′]bipyridinyl-2′-yl)-(4-trifluoromethoxyphenyl)-amine (200 mg, 0.53 mmol) in 1,4-dioxane (8 mL) were added potassium carbonate (148 mg, 1.06 mmol), and tetrakis(triphenylphosphine)palladium(0) (62 mg, 0.053 mmol), followed by 4-fluorophenyl boronic acid (150 mg, 1.6 mmol). This reaction mixture was refluxed for 8 hours, after which time water was added (10 mL) to the reaction mixture, and the product was extracted with ethyl acetate. The organic layer was dried over sodium sulphate, filtered, and the filtrate was concentrated under vacuum. The resulting product was purified through column chromatography using 230-400 mesh silica gel (15% ethyl acetate in petroleum ether) to afford the desired compound as colorless gummy mass (130 mg, yield 60% ).

reactant | (6′-chloro-3,4,5,6-tetrahydro-2H[1,4′]bipyridinyl-2′-yl)-(4-trifluoromethoxyphenyl)-amine | 0.53 mmol, 200 mg | ClC1=CC(=CC(=N1)NC1=CC=C(C=C1)OC(F)(F)F)N1CCCCC1 | C17H17ClF3N3O
reactant | potassium carbonate | 1.06 mmol, 148 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorophenyl boronic acid | 1.6 mmol, 150 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | water | O | H2O
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.053 mmol, 62 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [6′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-2′-yl]-(4-trifluoromethoxyphenyl)-amine | yield 60% | FC1=CC=C(C=C1)C1=CC(=CC(=N1)NC1=CC=C(C=C1)OC(F)(F)F)N1CCCCC1 | C23H21F4N3O
